US05843957
Preparation of N-[1-(3-hydroxypropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-(3-benzyloxypropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (1.31 g, 2.12 mmol) in ethanol (80 ml) was added 10% palladium-carbon (150 mg), and the mixture was stirred at room temperature under hydrogen atmosphere for three hours. To the mixture was added 12N hydrochloric acid (1 ml), and the mixture was further stirred at room temperature under hydrogen atmosphere for two hours. The mixture was filtered through a cerite pad, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (1-3% methanol in chloroform) to give the title compound (1.12 g, 2.12 mmol).

reactant | N-[1-(3-benzyloxypropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 2.12 mmol, 1.31 g | C(C1=CC=CC=C1)OCCCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C38H42N4O4
reactant | hydrochloric acid | 12N, 1 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 150 mg | [C].[Pd]
product | N-[1-(3-hydroxypropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 2.12 mmol, 1.12 g | OCCCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H36N4O4
